US04904664
In a similar manner to Example 3b) a mixture of 6-(4-propionylphenyl)pyridazin-3(2H)-one (2.28 g), formaldehyde (37% solution, 1 ml) and dimethylammonium chloride (1.25 g) in acetic anhydride (8 ml) was stirred at 90° C. for 11/2 hours. The cooled solution was poured into dry acetone (150 ml) and was evaporated to dryness under reduced pressure to afford a yellow oil. Trituration with dry acetone afforded 6-[4-(3-dimethylamino-2-methylpropionyl)phenyl]pyridazin-3(2H)-one hydrochloride (2.12 g), as a white solid.

reactant | 6-(4-propionylphenyl)pyridazin-3(2H)-one | 2.28 g | C(CC)(=O)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C13H12N2O2
reactant | formaldehyde | 1 ml | C=O | CH2O
reactant | dimethylammonium chloride | 1.25 g | [Cl-].C[NH2+]C
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-[4-(3-dimethylamino-2-methylpropionyl)phenyl]pyridazin-3(2H)-one hydrochloride | 2.12 g | Cl.CN(CC(C(=O)C1=CC=C(C=C1)C=1C=CC(NN1)=O)C)C | InChI=1S/C16H19N3O2.ClH/c1-11(10-19(2)3)16(21)13-6-4-12(5-7-13)14-8-9-15(20)18-17-14;/h4-9,11H,10H2,1-3H3,(H,18,20);1H
